US08633173B2
2-Chloro-8-(2-isopropoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 2-isopropoxyphenylboronic acid in a manner analogous to Example 2c (0.24 g, 40%). MS=288 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-isopropoxyphenylboronic acid | C(C)(C)OC1=C(C=CC=C1)B(O)O | C9H13BO3
product | 2-Chloro-8-(2-isopropoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=C(C=CC=C2)OC(C)C)=N1 | C15H14ClN3O
